US08217064B2
2-[4-Amino-3-(2,2,2-trifluoro-ethoxy)-phenyl]-3-cyclobutyl-propionic acid Methyl Ester
A solution of the 3-cyclobutyl-2-[4-nitro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-propionic acid methyl ester (15 g, 36.0 mmol) in EtOH (150 mL) was hydrogenated at 50 psi and 25° C. for 16 h in the presence of Pd—C catalyst (10%, 1.5 g). On the next day, the catalyst was filtered off and the solvent evaporated to give the crude product (12.3 g, 88%) as a yellow oil, which was used without purification for the next step. 1H NMR (300 MHz, CDCl3/TMS): δ 6.79-6.73 (m, 2H), 6.66 (d, J=8.0 Hz, 1H), 4.36 (q, J=8.3 Hz, 2H), 3.80 (br s, 2H), 3.63 (s, 3H), 3.35 (t, J=7.7 Hz, 1H), 2.20-1.86 (m, 4H), 1.85-1.70 (m, 3H), 1.67-1.51 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 174.7, 146.7, 135.7, 129.1, 123.3 (d, 1JCF=277.6 Hz), 122.7, 115.4, 112.2, 66.4 (q, 1JCF=35.4 Hz), 51.9, 48.9, 40.8, 34.0, 28.3, 28.1, 18.5.

reactant | 3-cyclobutyl-2-[4-nitro-3-(2,2,2-trifluoro-ethoxy)-phenyl]-propionic acid methyl ester | 36.0 mmol, 15 g | COC(C(CC1CCC1)C1=CC(=C(C=C1)[N+](=O)[O-])OCC(F)(F)F)=O | C16H18F3NO5
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd—C | 1.5 g | [Pd] | Pd
product | 2-[4-Amino-3-(2,2,2-trifluoro-ethoxy)-phenyl]-3-cyclobutyl-propionic acid Methyl Ester | 12.3 g, 88% | COC(C(CC1CCC1)C1=CC(=C(C=C1)N)OCC(F)(F)F)=O | C16H20F3NO3
